US06777395B2
3′-Deoxy-3′-methyl-2′-O-(2-methoxyethyl)-5-methyluridine
Trifluoroacetic acid (1.5 mL) was added dropwise to a stirred solution of 3′-deoxy-5′-O-(4-methoxytrityl)-3′-methyl-2′-O-(2-methoxyethyl)-5-methyluridine (370 mg, 0.63 mmol) in 50 mL of chloroform at 0° C. The mixture was stirred at rt for 30 min, concentrated, and then dissolved in ethyl acetate. The solution was washed with dilute sodium bicarbonate and brine. The organic phase was dried (Na2SO4) and concentrated. The resulting residue was purified by flash chromatography on a silica gel column. Elution with 1:1, 1:3 and then 0:1 hexanes-EtOAc provided 170 mg of the title compound as a white foam.

reactant | Trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3′-deoxy-5′-O-(4-methoxytrityl)-3′-methyl-2′-O-(2-methoxyethyl)-5-methyluridine | 0.63 mmol, 370 mg | COC1=CC=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)OC[C@@H]2[C@H]([C@H]([C@@H](O2)N2C(=O)NC(=O)C(=C2)C)OCCOC)C)C=C1 | C34H38N2O7
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 3′-Deoxy-3′-methyl-2′-O-(2-methoxyethyl)-5-methyluridine | 170 mg | C[C@H]1[C@H]([C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(=C1)C)OCCOC | C14H22N2O6
